US07550478B2
tert-butyl 4-[2-(3-chloro-5-oxo-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-7-yl)-2-hydroxyethyl]piperazine-1-carboxylate (Compound 345)
3-chloro-7-oxiran-2-yl-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-5-one (60 mg, 0.21 mmol) was suspended in 2.5 mL of methanol. tert-Butyl piperazine-1-carboxylate (98 mg, 0.53 mmol) was added and the reaction was heated to reflux for 8 hours. The resulting mixture was concentrated in vacuo and purified directly via flash chromatography (15-100% ethyl acetate/hexanes) to afford the title compound. 1H NMR (600 MHz, CDCl3) δ 9.79 (d, 1H); 8.49 (d, 1H); 8.22 (d, 1H); 7.77 (dd, 1H); 7.60 (d, 1H); 7.31 (d, 1H); 7.25 (d, 1H); 4.91 (dd, 1H); 3.50-3.45 (m, 4H); 2.72 (broad s, 2H); 2.63 (dd, 1H); 2.50 (dd, 1H); 2.44 (broad s, 2H); 1.46 (s, 9H). Hydroxyl proton was not observed. LRMS (APCI) calc'd for (C25H29ClN3O4) [M+H]+, 470.2; found 470.2.

reactant | 3-chloro-7-oxiran-2-yl-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-5-one | 0.21 mmol, 60 mg | ClC=1C=C2C(=NC1)C=CC1=C(C2=O)C=C(C=C1)C1OC1 | C16H10ClNO2
reactant | tert-Butyl piperazine-1-carboxylate | 0.53 mmol, 98 mg | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
solvent | methanol | 2.5 mL | CO | CH4O
product | tert-butyl 4-[2-(3-chloro-5-oxo-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-7-yl)-2-hydroxyethyl]piperazine-1-carboxylate | ClC=1C=C2C(=NC1)C=CC1=C(C2=O)C=C(C=C1)C(CN1CCN(CC1)C(=O)OC(C)(C)C)O | C25H28ClN3O4
